US09108957B2
(R)-(2-Hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester (4.0 g, 22.8 mmol) was dissolved in 50% aqueous sodium hydroxide solution (15 mL) at 0° C. and to the resulting solution was added allylbromide (2.2 mL, 25 mmol) and catalytic amount of tetrabutylammonium hydrogensulfate (0.85 g, 2.5 mmol) at room temperature and stirred for 4 hours. The resulting solution was diluted with water and extracted with ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated. The resulting crude allyl ether was dissolved in THF (75 mL) at room temperature and to the resulting solution was added a solution of 9-borabicyclo[3,3,1]nonane in THF (0.5 M, 100 mL, 50 mmol). After 5 hour-stirring, to the resulting solution was added water (8 mL), 3N aqueous sodium hydroxide solution (8.1 mL) and 30% aqueous hydrogen peroxide solution (8.2 mL) at room temperature and warmed to 40° C. followed by stirring for 30 minutes. The organic solvent was removed under reduced pressure and the residue was diluted with brine. Extraction was performed with ethyl acetate and the extracts were dried over magnesium sulfate. After concentration, the residual materials were purified by flash column chromatography on silica gel to afford (R)-[2-(3-hydroxypropoxy)-1-methyl-ethyl]carbamic acid tert-butyl ester (3.0 g, 12.9 mmol, 56%) as a colorless oil.

reactant | (R)-(2-Hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester | 22.8 mmol, 4.0 g | C(C)(C)(C)OC(N[C@@H](CO)C)=O | C8H17NO3
reactant | allylbromide | 25 mmol, 2.2 mL | C(C=C)Br | C3H5Br
reactant | 9-borabicyclo[3,3,1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | THF | 50 mmol, 0.5 M, 100 mL | C1CCOC1 | C4H8O
reactant | hydrogen peroxide | 8.2 mL | OO | H2O2
solvent | sodium hydroxide | 15 mL | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogensulfate | 2.5 mmol, 0.85 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | sodium hydroxide | 3N, 8.1 mL | [OH-].[Na+]
solvent | water | 8 mL | O | H2O
product | (R)-[2-(3-hydroxypropoxy)-1-methyl-ethyl]carbamic acid tert-butyl ester | 12.9 mmol, 3.0 g, 56% | C(C)(C)(C)OC(N[C@@H](COCCCO)C)=O | C11H23NO4
